US08664233B2
9.1 g (45.5 mmol) 4-bromo-2-fluorobenzonitrile, 10.0 g (91.0 mmol) glycinamide hydrochloride and 15.7 g (114 mmol) K2CO3 were suspended in 80 ml DMSO and heated at 120° C. for 5.5 h. Having cooled down to room temperature, the solvent was concentrated and water was added. The resulting precipitate was sucked off and washed with water. 11.6 g (100%) 2-(5-bromo-2-cyano-phenylamino)acetamide was obtained. ESI-MS [m/z]: 254, 256 [M+H]+

reactant | 4-bromo-2-fluorobenzonitrile | 45.5 mmol, 9.1 g | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | glycinamide hydrochloride | 91.0 mmol, 10.0 g | Cl.NCC(=O)N
reactant | K2CO3 | 114 mmol, 15.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 80 ml | CS(=O)C | C2H6OS
product | 2-(5-bromo-2-cyano-phenylamino)acetamide | 11.6 g, 100% | BrC=1C=CC(=C(C1)NCC(=O)N)C#N | C9H8BrN3O
